US03996282
Dilute hydrochloric acid hydrolysis of N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-3-formamidopropylammonium chloride following a procedure similar to that of B-4 above gives N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-3-aminopropylammonium chloride.

reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-3-formamidopropylammonium chloride | [Cl-].C[N+](CCCNC=O)(CCN(C1=CC=CC=C1)CC)C
product | N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-3-aminopropylammonium chloride | [Cl-].C[N+](CCCN)(CCN(C1=CC=CC=C1)CC)C | InChI=1S/C15H28N3.ClH/c1-4-17(15-9-6-5-7-10-15)12-14-18(2,3)13-8-11-16;/h5-7,9-10H,4,8,11-14,16H2,1-3H3;1H/q+1;/p-1
